US06051712
A solution of 372 mg (1 mmol) of tert-butyl (3RS,4RS)-4-carbamimidoyl-3-hydroxy-piperidine-1-carboxylate acetate in 10 ml of methanol was treated with 1 ml of 1N sodium methylate solution and stirred at room temperature. Subsequently, 205 mg (1 mmol) of 2-benzyloxy-3-dimethylamino-acrolein (EPA 0 477 901) were added thereto and the solution was heated to reflux for 18 hours. For the working-up, the reaction mixture was evaporated under reduced pressure and the residue was taken up in 20 ml of methylene chloride and washed with 5 ml of water. The organic phase was separated, dried over sodium sulphate and finally evaporated under reduced pressure. For purification, the residue was chromatographed on silica gel using a 1:4 mixture of methylene chloride and ethyl acetate as the eluent. There were obtained 106 mg (27% of theory) of tert-butyl (3RS,4RS)-4-(5-benzyloxy-pyrimidin-2-yl)-3-hydroxy-piperidine-1-carboxylate as a colourless oil; MS: 386 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-carbamimidoyl-3-hydroxy-piperidine-1-carboxylate acetate | 1 mmol, 372 mg | C(C)(=O)O.C(N)(=N)C1C(CN(CC1)C(=O)OC(C)(C)C)O
reactant | sodium methylate | 1N, 1 ml | C[O-].[Na+]
reactant | 2-benzyloxy-3-dimethylamino-acrolein | 1 mmol, 205 mg | C(C1=CC=CC=C1)OC(C=O)=CN(C)C | C12H15NO2
solvent | methanol | 10 ml | CO | CH4O
product | tert-butyl (3RS,4RS)-4-(5-benzyloxy-pyrimidin-2-yl)-3-hydroxy-piperidine-1-carboxylate | 106 mg, 27% | C(C1=CC=CC=C1)OC=1C=NC(=NC1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C21H27N3O4
